US04115402
step B: 2,3-Dichloro-4-(2-thienylsulfonyl)phenol
A stirred mixture of 2,3-dichloro-4-(2-thienylsulfonyl)anisole (7.0 g.) and pyridine hydrochloride (70.0 g.) are heated in an oil bath at 185° C. for 1/2 hour and poured into water (300 ml.) to give 5.7 g. of 2,3-dichloro-4-(2-thienylsulfonyl)phenol which melts at 220° C. after recrystallization from ethanol.

reactant | 2,3-dichloro-4-(2-thienylsulfonyl)anisole | 7.0 g | ClC1=C(C=CC(=C1Cl)S(=O)(=O)C=1SC=CC1)OC | C11H8Cl2O3S2
reactant | pyridine hydrochloride | 70.0 g | Cl.N1=CC=CC=C1
solvent | water | 300 ml | O | H2O
product | 2,3-Dichloro-4-(2-thienylsulfonyl)phenol | ClC1=C(C=CC(=C1Cl)S(=O)(=O)C=1SC=CC1)O | C10H6Cl2O3S2
